US04853393
A mixture of 16.4 g of 2,6-dimethyl-4-(3-nitrophenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid methyl ester 3-chloropropyl ester and 16.6 g of 4-(p-fluorobenzoyl)-piperidine is kept for 1 hour under argon in a bath heated to 145°. After cooling, 100 ml of ethyl acetate and 50 ml of 2N hydrochloric acid are added and the mixture is stirred until the reaction mass has completely dissolved. The partly oily aqueous-acidic phase is adjusted to pH 10 with 50% potassium carbonate solution; methylene chloride is added and the whole is filtered with suction. The methylene chloride phase of the filtrate is separated off and concentrated by evaporation and the residue is dissolved in ethyl acetate; the solution is dried over sodium sulphate and filtered. Filtration is then carried out over 1 kg of silica gel Merck 9385 using a hexane/ethyl acetate/methanol mixture (4:2:0.5) as eluant. The 2,6-dimethyl-4-(3-nitrophenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid methyl ester 3-[4-(p-fluorobenzoyl)-piperidino]-propyl ester obtained after working up is converted by means of ethereal hydrogen chloride solution into the hydrochloride which, after recrystallisation from isopropanol, melts at 198°-205° with the evolution of gas.

reactant | 2,6-dimethyl-4-(3-nitrophenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid methyl ester 3-chloropropyl ester | 16.4 g | ClCCCOC(=O)C=1C(C(=C(NC1C)C)C(=O)OC)C1=CC(=CC=C1)[N+](=O)[O-] | C19H21ClN2O6
reactant | 4-(p-fluorobenzoyl)-piperidine | 16.6 g | FC1=CC=C(C(=O)C2CCNCC2)C=C1 | C12H14FNO
reactant | hydrochloric acid | 2N, 50 ml | Cl | ClH
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 2,6-dimethyl-4-(3-nitrophenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid methyl ester 3-[4-(p-fluorobenzoyl)-piperidino]-propyl ester | FC1=CC=C(C(=O)C2CCN(CC2)CCCOC(=O)C=2C(C(=C(NC2C)C)C(=O)OC)C2=CC(=CC=C2)[N+](=O)[O-])C=C1 | C31H34FN3O7
